US06921759B2
Step 4: Preparation of 5-cyano-N-(2,3-dimethoxybenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide
To a solution of methyl 8-(benzoyloxy)-5-cyano-1,6-naphthyridine-7-carboxylate (264 mg, 0.792 mmol) in anhydrous toluene (12 ml) was added 2,3-dimethoxybenzyl amine (132 mg, 0.79 mmol) and the solution was stirred at reflux under argon overnight. The solvent was removed under reduced pressure to give a brown syrup which was subsequently taken up into ether (10 ml). After stirring for 4 hours the solids were collected by vacuum filtration and dried overnight on an aberhalden to give an off white solid.

reactant | methyl 8-(benzoyloxy)-5-cyano-1,6-naphthyridine-7-carboxylate | 0.792 mmol, 264 mg | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=C2C=CC=NC12)C#N)C(=O)OC | C18H11N3O4
reactant | 2,3-dimethoxybenzyl amine | 0.79 mmol, 132 mg | COC1=C(CN)C=CC=C1OC | C9H13NO2
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | 5-cyano-N-(2,3-dimethoxybenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | C(#N)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C(=CC=C1)OC)OC)O | C19H16N4O4
